US07728023B2
4-(7-bromo-1H-indol-3-yl)butanenitrile
To an anhydrous toluene (12 mL) solution of 7-bromoindole (1.0 g) and 4-chlorobutyronitrile (0.26 g), ethylmagnesium bromide (3.0M diethyl ether solution; 1.7 mL) was added dropwise under ice cooling and the mixture was heated to reflux for 4.5 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution was added under ice cooling, followed by extraction with ethyl acetate. The organic layer was washed in turn with water and saturated saline, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10→70:30) to obtain the titled compound having the following physical properties (0.40 g).

reactant | 7-bromoindole | 1.0 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | 4-chlorobutyronitrile | 0.26 g | ClCCCC#N | C4H6ClN
reactant | ethylmagnesium bromide | 3.0M, 1.7 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(7-bromo-1H-indol-3-yl)butanenitrile | BrC=1C=CC=C2C(=CNC12)CCCC#N | C12H11BrN2
